US05962685
Synthesis of 2-[3-(4,6-dimethoxypyrimidine-2-yloxy)-2-pyridyl]-4,5,6,7-tetrahydrobenzoxazole (Compound No. 4-1)
0.12 g 2-(3-hydroxy-2-pyridyl)-4,5,6,7-tetrahydrobenzoxazole, 0.12 g 2-methanesulfonyl-4,6-dimethoxypyrimidine and 0.21 g pottasium carbonate were suspended in 3 ml DMF, and the resulting suspension was subjected to a reaction for 2 hours at 60° C. After completing the reaction, the suspension reacted was added with water and then extracted with ethyl acetate. The extract was then washed with saturated saline solution. The organic layer obtained was dried with anhydrous magnesium sulfate, and the solvent used was removed by distillation under reduced pressure. The residue obtained was purified by using silica gel column chromatography, affording the objective substance in an amount of 0.18 g.

reactant | 2-(3-hydroxy-2-pyridyl)-4,5,6,7-tetrahydrobenzoxazole | 0.12 g | OC=1C(=NC=CC1)C=1OC2=C(N1)CCCC2 | C12H12N2O2
reactant | 2-methanesulfonyl-4,6-dimethoxypyrimidine | 0.12 g | CS(=O)(=O)C1=NC(=CC(=N1)OC)OC | C7H10N2O4S
reactant | carbonate | 0.21 g | C([O-])([O-])=O
reactant | water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-[3-(4,6-dimethoxypyrimidine-2-yloxy)-2-pyridyl]-4,5,6,7-tetrahydrobenzoxazole | COC1=NC(=NC(=C1)OC)OC=1C(=NC=CC1)C=1OC2=C(N1)CCCC2 | C18H18N4O4
